US08076374B2
Step A. 4-(1-Methoxymethylene-heptyl)-benzoic acid methyl ester
(Methoxymethyl)triphenylphosphonium chloride (10.34 g, 30.24 mmol) is suspended in anhydrous toluene (75 mL) and potassium tert-butoxide (3.39 g, 30.24 mmol) is carefully added. The solution is allowed to stir at room temperature for 4 h. 4-Heptanoyl-benzoic acid methyl ester (5.0 g, 20.16 mmol) is then dissolved in anhydrous toluene (25 mL) and added to the reaction mixture by cannula. The reaction is allowed to stir at room temperature overnight and is monitored by TLC. Upon complete consumption of starting material, the reaction is carefully quenched with saturated ammonium chloride solution, extracted with diethyl ether, washed, dried, and concentrated. The title compound is purified by column chromatography using hexanes/ethyl acetate and used directly in the next step.

reactant | (Methoxymethyl)triphenylphosphonium chloride | 30.24 mmol, 10.34 g | [Cl-].COC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | potassium tert-butoxide | 30.24 mmol, 3.39 g | CC(C)([O-])C.[K+]
reactant | 4-Heptanoyl-benzoic acid methyl ester | 20.16 mmol, 5.0 g | COC(C1=CC=C(C=C1)C(CCCCCC)=O)=O | C15H20O3
solvent | toluene | 75 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 25 mL | C1(=CC=CC=C1)C | C7H8
product | 4-(1-Methoxymethylene-heptyl)-benzoic acid methyl ester | COC(C1=CC=C(C=C1)C(CCCCCC)=COC)=O | C17H24O3
